US04415573
2-Hydroxygenzaldehyde (10 g) was dissolved in acetic anhydride (30 ml) and pyridine (30 ml) followed by stirring at room temperature for 3 hours. The reaction mixture was poured into ice-water and the resulting precipitate was recovered by filtration. The precipitate was dissolved in chloroform (100 ml), washed with water, dried and evaporated to give 2-acetoxybenzaldehyde. To a solution of 2-acetoxy-benzaldehyde (13 g) and ethyleneglycol (10 ml) in benzene (80 ml) was added Amberlist 15 (Rohm and Haas Co.) (3 g) and followed by refluxing for 5 hours. Water generated during refluxing was removed as an azeotropic mixture. The reaction mixture was washed with an aqueous solution of sodium bicarbonate, and then with water, and dried and evaporated. The residue was distilled under reduced pressure to collect a fraction distilled out at 115°-125° C./4 mmHg to give 10 g of 2-(2-acetoxyphenyl)-1,3-dioxolan. To a solution of 2-(2-acetoxy-phenyl)-1,3-dioxolan (19.6 g) in dichloromethane (50 ml), bis(trimethylsilyl)-5-fluorouracil prepared as in Example 1 from 5-fluorouracil (10 g) was added and treated as in Example 10 to give 4.2 g of crystalline 1-[α-(2-hydroxyethoxy)-2-acetoxybenzyl]-5-fluorouracil.

reactant | 2-acetoxy-benzaldehyde | 13 g | C(C)(=O)OC1=C(C=O)C=CC=C1 | C9H8O3
reactant | ethyleneglycol | 10 ml | C(CO)O | C2H6O2
reactant | Water | O | H2O
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-acetoxyphenyl)-1,3-dioxolan | 10 g | C(C)(=O)OC1=C(C=CC=C1)C1OCCO1 | C11H12O4
